US05814651
2-[[3-(Bicyclo[2.2.1]hept-2-yloxy)-4-methoxyphenyl]-methylene]-4-(phenylmethyl)-2H-1,4-benzothiazin-3(4H)-one
To a stirred solution of (87 μl, 1.24 mmol, 2.0 eq) dry dimethylsulfoxide in 3 ml of dry CH2Cl2 at -65° C. was added (0.46 ml, 0.927 mmol, 1.5 eq) of 2.0M oxalyl chloride in CH2 Cl2. The mixture was stirred at ca. -60° C. for 15 minutes, then a solution of (310 mg, 0.618 mmol, 1.0 eq) 2-[[3-(bicyclo[2.2.1]hept-2-yloxy)-4-methoxyphenyl]hydroxy-methyl]-4-(phenylmethyl)-2H-1,4-benzothiazin-3(4H)-one in 10 ml dry CH2Cl2 was added dropwise at -65° C. The mixture was allowed to warm to -30° C. over 1 hour, then cooled to -78° C. and (0.43 ml, 3.09 mmol, 5.0 eq) triethylamine was added to the mixture. The mixture was stirred at room temperature for 1 hour then diluted with 400 ml ethyl acetate, washed twice with H2O, once with brine, dried over MgSO4, and concentrated to give 0.3 g of an oil. Silica gel chromatography eluting with 10% ethyl acetate-hexane gave 120 mg of a yellow oil, which was recrystallized from ether-hexane to yield 55 mg, 18%, of a yellow solid. M.P.: 135°-137° C. Elemental Analysis Calc'd for C30H29NO3S: Calc'd: C, 74.51; H, 6.04; N, 2.90. Found: C, 74.53; H, 5.48; N, 2.88.

reactant | dimethylsulfoxide | 1.24 mmol, 87 μl, 2.0 eq | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 0.927 mmol, 2.0M, 0.46 ml, 1.5 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-[[3-(bicyclo[2.2.1]hept-2-yloxy)-4-methoxyphenyl]hydroxy-methyl]-4-(phenylmethyl)-2H-1,4-benzothiazin-3(4H)-one | 0.618 mmol, 310 mg, 1.0 eq | C12C(CC(CC1)C2)OC=2C=C(C=CC2OC)C(C2SC1=C(N(C2=O)CC2=CC=CC=C2)C=CC=C1)O | C30H31NO4S
reactant | triethylamine | 3.09 mmol, 0.43 ml, 5.0 eq | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
solvent | Cl2 | ClCl | Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 400 ml | C(C)(=O)OCC | C4H8O2
product | 2-[[3-(Bicyclo[2.2.1]hept-2-yloxy)-4-methoxyphenyl]-methylene]-4-(phenylmethyl)-2H-1,4-benzothiazin-3(4H)-one | 0.3 g | C12C(CC(CC1)C2)OC=2C=C(C=CC2OC)C=C2SC1=C(N(C2=O)CC2=CC=CC=C2)C=CC=C1 | C30H29NO3S
